US07834051B2
2-chloro-4-(3-hydroxy-5-oxo-2-propyl-2,5-dihydro-1H-pyrrol-1-yl)benzonitrile
To a solution of N-(3-chloro-4-cyanophenyl)norvaline (4.0 g), Meldrum's acid (2.40 g) and 4-(N,N-dimethyl)aminopyridine. (2.90 g) in tetrahydrofuran (60 mL) was added N,N′-carbonyldiimidazole (3.08 g) at 0° C., and the mixture was stirred at room temperature overnight. A 5% aqueous potassium hydrogen sulfate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with 5% aqueous potassium hydrogen sulfate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate (60 mL), and the mixture was refluxed for 45 min. After allowing to room temperature, the mixture was extracted twice with saturated aqueous sodium hydrogen carbonate solution. The aqueous layers were combined, and acidified with citric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was washed with ethyl acetate to give the title compound as colorless crystals (yield: 1.89 g, 43%).

reactant | N-(3-chloro-4-cyanophenyl)norvaline | 4.0 g | ClC=1C=C(C=CC1C#N)N[C@@H](CCC)C(=O)O | C12H13ClN2O2
reactant | Meldrum's acid | 2.40 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
catalyst | 4-(N,N-dimethyl)aminopyridine | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 2-chloro-4-(3-hydroxy-5-oxo-2-propyl-2,5-dihydro-1H-pyrrol-1-yl)benzonitrile | yield: 1.89 g, 43% | ClC1=C(C#N)C=CC(=C1)N1C(C(=CC1=O)O)CCC | C14H13ClN2O2
